US09359371B2
(3) Preparation: 4-((3-chloro-4-methoxybenzyl)amino)-2-(5-azaspiro[2.4]heptan-5-yl) pyrimidine-5-carboxylic acid
The procedures were analogous to Example 1(2). Ethyl 4-((3-chloro-4-methoxybenzyl)amino)-2-(5-azaspiro[2.4]heptan-5-yl)pyrimidine-5-carboxylate (3.4 g, 8.17 mmol) was used in step 2 instead of ethyl 4-((3-chloro-4-methoxybenzyl)amino)-2-(methylthio)pyrimidine-5-carboxylate. Yield: 54%.

reactant | Ethyl 4-((3-chloro-4-methoxybenzyl)amino)-2-(5-azaspiro[2.4]heptan-5-yl)pyrimidine-5-carboxylate | 8.17 mmol, 3.4 g | ClC=1C=C(CNC2=NC(=NC=C2C(=O)OCC)N2CC3(CC3)CC2)C=CC1OC | C21H25ClN4O3
reactant | ethyl 4-((3-chloro-4-methoxybenzyl)amino)-2-(methylthio)pyrimidine-5-carboxylate | ClC=1C=C(CNC2=NC(=NC=C2C(=O)OCC)SC)C=CC1OC | C16H18ClN3O3S
product | 4-((3-chloro-4-methoxybenzyl)amino)-2-(5-azaspiro[2.4]heptan-5-yl) pyrimidine-5-carboxylic acid | Yield: 54% | ClC=1C=C(CNC2=NC(=NC=C2C(=O)O)N2CC3(CC3)CC2)C=CC1OC | C19H21ClN4O3
